US04916149
A suspension containing 5.4 g of 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonyl-2-methylsulfonylbenzimidazole in 30 ml of 2N sodium hydroxide solution was stirred at 50° C. for 4 hours to give a clear violet solution which was clarified by activated carbon, filtered and the filtrate was acidified to pH 2 by adding 2N hydrochloric acid. The white precipitate was filtered by suction, washed with water and dried to give 4.43 g (85.7%) of 5-carboxy-1-(4'-chloro-3'-sulfamoylbenzoyl)amino-2-methylsulfonylbenzimidazole, as a white powdery solid, m.p.: 222°-225° C. (with decomposition) which is not changed after recrystallization from a mixture of dimethylformamide and water (3:2).

reactant | 1-(4'-chloro-3'-sulfamoylbenzoyl)amino-5-methoxycarbonyl-2-methylsulfonylbenzimidazole | 5.4 g | ClC1=C(C=C(C(=O)NN2C(=NC3=C2C=CC(=C3)C(=O)OC)S(=O)(=O)C)C=C1)S(N)(=O)=O | C17H15ClN4O7S2
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
product | 5-carboxy-1-(4'-chloro-3'-sulfamoylbenzoyl)amino-2-methylsulfonylbenzimidazole | 4.43 g, 85.7% | C(=O)(O)C1=CC2=C(N(C(=N2)S(=O)(=O)C)NC(C2=CC(=C(C=C2)Cl)S(N)(=O)=O)=O)C=C1 | C16H13ClN4O7S2
